US07932272B2
Methanesulfonic acid 2-fluoro-benzyl ester
To a solution of 2-fluorobenzyl alcohol (4.40 g, 34.9 mmol) in dichloromethane (40 mL) was added methanesulfonyl chloride (3.24 mL, 41.9 mmol) and triethylamine (5.84 mL, 41.9 mmol) on an ice bath, the solution was warmed to room temperature and stirred overnight. The reaction solution was diluted with dichloromethane, washed with an aqueous solution of 5% sodium bicarbonate, then, dried over anhydrous magnesium sulfate, the solvent was evaporated, and the title compound (4.62 g, 65%) was obtained as a brown oil. This was used in the next reaction without purification.

reactant | 2-fluorobenzyl alcohol | 34.9 mmol, 4.40 g | FC1=C(CO)C=CC=C1 | C7H7FO
reactant | methanesulfonyl chloride | 41.9 mmol, 3.24 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 41.9 mmol, 5.84 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | Methanesulfonic acid 2-fluoro-benzyl ester | 4.62 g, 65% | FC1=C(COS(=O)(=O)C)C=CC=C1 | C8H9FO3S
